* F:\Project RMMD\LT Spice Simualtion\2ChannelsProtect.asc
V_PWM N001 0 PULSE(0 5 0 1n 1n 19m 20m)
V_DIR N005 0 5
R§Left N002 P001 250
M1 P001 N005 0 0 IRFZ44N
M2 N004 N005 N001 N001 IRF7233
Right N003 0 250
D1 N001 N002 D
D2 N004 N003 D
D3 N004 N003 D
D4 N001 N002 D
R1 N005 0 10k
R2 N001 N005 10k
.model D D
.lib C:\users\srikar\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\srikar\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10 0.1n 1m
.backanno
.end
